US08003785B2
To a mixture of 0.040 g (0.0899 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-benzoic acid (I-194) and 6 mL of dimethylformamide was added 0.0182 g (0.135 mmole) of 1-hydroxybenzotriazole, 0.0520 g (0.135 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.047 g (0.359 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0098 g (0.145 mmole) of methylamine hydrochloride was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.0275 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-N-methyl-benzamide (I-200) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-benzoic acid | 0.0899 mmole, 0.040 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)CC | C22H25F2N5O3
reactant | 1-hydroxybenzotriazole | 0.135 mmole, 0.0182 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.135 mmole, 0.0520 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.359 mmole, 0.047 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine hydrochloride | 0.145 mmole, 0.0098 g | Cl.CN
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-N-methyl-benzamide | 0.0275 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC)C=C2)CC | C23H28F2N6O2
